* C:\Users\yifany\OneDrive - MathWorks\Desktop\Co-simulation\25b\single-in and single-out.sxsch
*#SIMETRIX
V1 R1_P 0 500
R1 R1_P R1_N 1K
X$U1 U1_OUT1P 0 $TP_SLSX_U1
.SUBCKT $TP_SLSX_U1 OUT1P OUT1N
U1 OUT1P OUT1N SLSX INDEX=0
.MODEL SLSX SLSX DIR=OUT CONN=DIFF DRIVE=V RAMP_TIME=0
.ENDS
X$U2 R1_N $TP_SLSX_U2
.SUBCKT $TP_SLSX_U2 IN1
U1 IN1 SLSX INDEX=1
.MODEL SLSX SLSX DIR=IN CONN=SINGLE DRIVE=V
.ENDS
X$Q1 R1_N U1_OUT1P 0 AIKQ200N75CP2_L1 params: TJ=25 pinnames: C G E
.GRAPH U1_OUT1P curveLabel= Q1-G nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc GUID="7b7a0dc9-008e-47f0-99e6-26b9a2951ffc" disabled=false PROBEREF=Probe1  
.GRAPH Q1#C curveLabel="I(Q1-C)" nowarn=true complete=true analysis=tran|ac|dc GUID="3530e0ff-d89c-4628-ad73-dacc07a6caef" disabled=false 
